Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Iodine / Glucocorticoids,Systemic Classifier / 
Dilaudid / Neurontin
 
Attending: ___.
 
Chief Complaint:
Encephalopathy
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
HPI:  Mr. ___ is a ___ year old man with metastatic renal cell 
carcinoma s/p L4-S1 fusion with partial sacrectomy and 
sacro-iliac screw placement in ___ followed by XRT, 
complicated by ___ surgical site infection and right iliac bone 
pathologic fracture, now presenting with ___ days of lethargy, 
poor PO intake, nausea, vomiting, visual/auditory 
hallucinations, and headache.  He reports acute on chronic 
worsening pain in his hips/legs as well as weakness. He 
acknowledges falls at home and has been using wheelchair to get 
around. He fell in the shower this AM without head trauma after 
he slipped on a towel; he did not experience any prodrome. He 
states that he heads sounds sich as a tornado or sparks from 
electrical wires which he recognizes as not real.  He also 
reports seeing a purple halo around the television set and 
occasionally objects that others do not.  His family states that 
he is definitely not confused and does not have word finding 
difficulty.  He also notes that his hands can become more 
spastic when holding objects but are not weak.  
.
He was previously admitted to the OMED service from 
___ for leg and incision site pain, found to have a 
deep tissue infection at the incision site as well as a 
pathologic fracture.  MRI showed infection along the surgical 
tract as well as very small (largest 15mm) abscesses.  Wound 
culture was consistent with MSSA and he was treated with 
nafcillin 2mg IV q4 was starting on ___. PICC was placed with 
plan to complete a 4 week course of IV antibiotics.  The ID team 
wanted repeat MRI to re-evalaute extent of infection. Regarding 
his renal cell carcinoma, chemotherapy (sunitinib) was held in 
the setting of infection.  MRI of the abdomen/pelvis showed that 
the tumor in the pelvis  has increased in size since the last 
imaging studies and was interfering with the hardware placed 
during prior surgery. The orthopedic team evaluated the patient 
to assess whether or not the tumor should be removed but surgery 
was deferred until follow up with Dr. ___ at 
___, for further discussion.  This MRI also revealed a 
pathologic fracture at site of R iliac bone.  Radiation therapy 
for an acetabular lesion was consider but deemed not beneficial.
.
In the ED, initial vitals were: 98 78 112/62 16 94%RA.  On exam, 
he was pale, but hemodynamically stable.  Right PICC line site 
looked well and sacral scar was slightly tender with small 
amount of bleeding/stain on his underwear.  Guaiac negative 
stool in vault.  There was no extremity edema or cyanosis.  Labs 
were notable for creatinine on 2.0 (baseline 0.9) and he was 
given 1L NS; bicarb 37 (baseline <30); Hct 26.8 (at recent 
baseline); improved WBC.  CT head did not show any acute 
abnormalities.  MRI showed expansion of the known mass into the 
sacral spinal canal causing severe stenosis.  Ortho spine 
determined that were no emergent surgical needs and recommended 
admit to medicine. 
.  
Review of Systems:  
(+) Per HPI and mild constipation
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies blurry vision, diplopia, loss of vision, 
photophobia. Denies  sinus tenderness, rhinorrhea or congestion. 
Denies chest pain or tightness, palpitations.  Denies cough, 
shortness of breath, or wheezes. Denies diarrhea, melena, 
hematemesis, hematochezia. Denies dysuria, stool or urine 
incontinence. Denies rashes or skin breakdown (wife says back 
erythema is much improved). No numbness/tingling in extremities. 
All other systems negative.
.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: the patient developed hematuria, 40 pounds weight
loss, fevers and chills. 
- ___: a CT scan showed a heterogeneous nodular
infiltration of the left kidney measuring 8.6 x 8.8 cm with no
evidence of obstruction. A bone scan on ___ was
negative. 
-___: underwent an open radical nephrectomy; final
pathology showing a 8.5 x 6 x 6 cm clear cell renal cell
carcinoma, stage pT2N0Mx ___ grade IV. As he was recovering
from surgery, he developed gradually worsening pain radiating
down his right leg, beginning in the right hip. A MRI was
obtained showing a lytic lesion at the right sacral ala
concerning for metastasis.  
- ___ underwent CT-guided bone biopsy; pathology
confirming metastatic renal cell carcinoma.
- ___ received cycle 1 week 1 high-dose IL-2 therapy
complicated by pulmonary edema, acute renal failure and toxic
encephalopathy. His symptoms of right hip pain improved briefly
following his IL-2 but his restaging CT's showed that his right
pelvic met had grown in size.  
 ___ Cyberknife radiation to his right hip
 ___ partial sacrectomy followed by instrumental sacral
reconstruction on ___
-___ MRI lumbar spine showed substantial progression of the
sacral mass
-___ cyberknife treatment of the right sacral mass
- ___: began Sunitinib 50 mg which he took for 3 weeks, then
dose reduced to 37.5 mg due to symptoms of nausea, fatigue,
depression; ___ cycle of Sutent at lower dose
- ___: cycle 3 of Sutent at 50 mg daily for 4 weeks on, 2
weeks off
- ___ - admitted for MSSA soft tissue infection, pelvic 
fracture, and tumor progression and Sutenet was discontinued
.  
.  
PAST MEDICAL HISTORY:  
1.  History of recurrent kidney stones dating as far back as 
___.
2. Asymptomatic bradycardia which was thoroughly evaluated by
cardiology and no therapy was indicated.  Of note, during
anesthesia for his nephrectomy, he required atropine for 
bradycardia.
3.  GERD.
4.  Degenerative disc disease in the C-spine region.
5.  Hypothyroidism 
6.  Depression
.  

 
Social History:
___
Family History:
The patient's mother is alive at ___.  He does not know his
biological father.  Patient's mother had some thyroid problems. 
His maternal grandmother had a brain tumor.  His children are
healthy.

 
Physical Exam:
T: 96.9  bp 116/68  HR 54  RR 18  SaO2 93%RA
GENERAL: NAD, interactive
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
HEENT: AT/NC, EOMI, anicteric sclera, pink conjunctiva, patent 
nares, dry mucous membranes, good dentition, nontender supple 
neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no mrg  
LUNG: CTAB, normal effort
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
BACK: mid-vertebral incision very well-healed, no erythema of 
previous site of cellulitis; mild upper thoracic spine 
tenderness
M/S: moving all extremities well, no cyanosis, clubbing or 
edema, no obvious deformities  
NEURO: no focal deficits, AOx3, language fluent and appropriate
PSYCH: cooperative, pleasant

Discharge PE
pt w/ asterixis, brisk (3+) reflexes throughout, midline lumbar 
incision well healed w/ induration and excoriation at spot of 
abscess, otherwise PE WNL
 
Pertinent Results:
___ 03:30PM URINE  HOURS-RANDOM UREA N-263 CREAT-95 
SODIUM-58 POTASSIUM-38 CHLORIDE-46
___ 03:30PM URINE  OSMOLAL-310
___ 03:30PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 03:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:30PM URINE  EOS-POSITIVE  
___ 12:07PM   LACTATE-1.1
___ 11:55AM   GLUCOSE-114* UREA N-21* CREAT-2.0*# 
SODIUM-144 POTASSIUM-3.4 CHLORIDE-101 TOTAL CO2-37* ANION GAP-9
___ 11:55AM   WBC-6.6# RBC-3.27* HGB-8.7* HCT-26.8* MCV-82 
MCH-26.7* MCHC-32.6 RDW-17.8*
___ 11:55AM   NEUTS-81.0* LYMPHS-14.1* MONOS-4.2 EOS-0.5 
BASOS-0.2
___ 11:55AM   PLT COUNT-143*
discharge labs

___ 06:00AM BLOOD WBC-4.4 RBC-3.13* Hgb-8.1* Hct-26.3* 
MCV-84 MCH-26.0* MCHC-30.9* RDW-17.7* Plt ___
___ 06:00AM BLOOD Glucose-110* UreaN-12 Creat-1.1 Na-142 
K-3.2* Cl-108 HCO3-26 AnGap-11
___ 06:00AM BLOOD Calcium-9.4 Phos-2.5* Mg-1.8

CT head (in ED): no acute abnormalities
.
CXR (in ED): IMPRESSION: No evidence of acute disease. PICC line 
terminating in superior vena cava. 
.
MRI spine (in ED):
IMPRESSION: 
1. Large enhancing soft tissue mass involving the right side of 
the sacrum, right iliac bone, and posterior elements of L5 
vertebral body which is unchanged in size as compared to the 
prior study. There is extension of the mass into bilateral L5-S1 
neural foramen and into the sacral spinal canal causing severe 
spinal canal stenosis. There is intradural extension of the mass 
extending along the nerve roots up to L5 level. 
2. Stable postoperative changes with L4 to S2 posterior fusion 
hardware and partial resection of the sacrum. 
3. Peripherally enhancing small collections are noted in the 
posterior paraspinal soft tissue at S3 level extending to the 
skin which have increased since the prior study. 
.  
Head CT
IMPRESSION: 
  
1. No intracranial hemorrhage or mass effect. If there is 
continued clinical concern for intracranial metastasis, 
contrast-enhanced CT or preferably MR would be more sensitive 
for detecting metastatic disease. 
  
2. Evidence of mild paranasal sinus disease. 
  
Spine MRI
  
IMPRESSION: 
1. No abnormal vertebral or intramedullary enhancement. 
2. Mild enhancement along the surface of the lower thoracic 
spinal cord which 
likely represents vascular enhancement. However, possibility of 
leptomeningeal 
spread of disease cannot be ruled out. 
3. Moderate degenerative changes in the cervical spine with 
multilevel neural 
foraminal stenosis and moderate spinal canal stenosis at C4-C5. 
4. Mild degenerative changes in the thoracic spine without 
spinal canal or 
neural foraminal stenosis. 
5. No focal signal abnormality noted in the spinal cord. 
  
Head MRI
IMPRESSION:  
1. A small homogenously enhancing extra-axial dural based lesion 
in the left 
middle cranial fossa anteriorly. This likely represents a 
meningioma. However, 
possibility of dural based metastasis cannot be entirely ruled 
out. If prior 
MRI are available, correlation with them may help in confirming 
the diagnosis. 
2. No evidence of acute infarct or intracranial hemorrhage.  
3. No abnormal parenchymal enhancement.  

 
Brief Hospital Course:
The patient is a ___ year old man admitted to ___ on ___ 
with metastatic renal cell carcinoma s/p L4-S1 fusion with 
partial sacrectomy and sacro-iliac screw placement in ___ followed by XRT, complicated by ___ surgical site 
infection and right iliac bone pathologic fracture, now 
presenting with altered mental status, acute kidney injury, and 
further progression of his metastatic RCC.

An MRI of lumber spine showed extension of soft tissue mass into 
spinal canal into the spinal canal. It did not show any 
significant findings within the thoracic or cervical spine. A 
head MRI showed possible evidence of cancer spread -> ? 
meningioma vs mets. 

The team was hesitant to pursue an LP given the location of his 
abscess. It was discussed thoroughly with the interventional 
radiology team and they did not feel that there was a safe 
window to pursue an LP, and also were not comfortable attempting 
a cervical level spinal tap. Given the concern for 
leptomeningeal spread, and the inconclusive MRI, the team 
decided to pursue an LP above the level of abscess. An LP was 
completed at the L2-L3 level which showed total protein of 199*, 
but no signs of infection. 

It is difficult to say whether or not the intracranial lesion in 
the patient's brain is benign versus mets without previous 
studies to compare. The CSF studies suggest leptomeningeal 
spread with such a high protein level; however, we will need to 
wait for flow cytometry to be completed to know for sure.

The patient's calcium level was elevated with a low phosphorus. 
His PTH was low at only 8. Our thoughts are an ectopic source of 
PTHrP causing the hypercalcemia. This is a sendout lab and was 
pending at the time of discharge. To mention, ectopic PTHrP has 
been found in up to 15% of ___ patients. The patient received 
IVFs throughout his stay, and also dose of IV pamidronate. He 
was also started on calcitonin briefly to assist in bringing 
down his calcium levels. 

It was decided to not send him home on cacitonin, but the 
patient will need close followup with his PCP this week to have 
it rechecked. The patient will continue his course of nafcillin 
for his lumbar abscess at home. He has several appointments to 
be scheduled after his discharge.   

 
Medications on Admission:
 nafcillin 2 gram Recon Soln Sig: One (1)  Intravenous every 
four (4) hours.
Disp:*128 doses* Refills:*2*
- Prevacid 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
- levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
- methylphenidate 10 mg Tablet Sig: 1.5 Tablets PO once a day.  
- MS ___ 30 mg Tablet Extended Release Sig: Three (3) Tablet 
Extended Release PO twice a day.  
- morphine 15 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.  
- Zofran 4 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for nausea.  
- pregabalin 150 mg Capsule Sig: ___ Capsules PO twice a day: 
600 mg in the AM, 450 mg in the ___.  
- sertraline 100 mg Tablet Sig: 1.5 Tablets PO once a day.  
- acai berry extract ___ mg Capsule Sig: Two (2) Capsule PO 
once a day.  
- Acetaminophen Extra Strength 500 mg Tablet Sig: Two (2) 
Tablet PO every eight (8) hours as needed for pain.  
- Vitamin C 1,000 mg Tablet Sig: One (1) Tablet PO once a day. 
- Vitamin D-3  Oral
- Benadryl 25 mg Capsule Sig: One (1) Capsule PO at bedtime.  
- senna 8.6 mg Tablet Sig: ___ Tablets PO twice a day: 4 
Capsule(s) by mouth twice a day 2 cap in AM and 4
cap at night.  
- Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
- flaxseed oil  Oral
- ibuprofen 600 mg Tablet Sig: One (1) Tablet PO twice a day 
as needed for pain.  
- zinc 50 mg Tablet Sig: One (1) Tablet PO once a day.  
- polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily) as needed for constipation.
Disp:*30 packets* Refills:*2*
- lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day) as needed for constipation.

 
Discharge Medications:
1. levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. methylphenidate 5 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. morphine 30 mg Tablet Extended Release Sig: Three (3) Tablet 
Extended Release PO Q12H (every 12 hours).  
4. morphine 15 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO Q4H (every 4 hours) as needed for pain.  
5. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours).  
6. sertraline 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
7. ascorbic acid ___ mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. docusate sodium 100 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day).  
9. senna 8.6 mg Tablet Sig: One (1) Tablet PO QAM (once a day 
(in the morning)).  
10. senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  

11. zinc sulfate 220 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
12. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily).  
13. nafcillin in D2.4W 2 gram/100 mL Piggyback Sig: One (1)  
Intravenous Q4H (every 4 hours).  
14. diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO HS 
(at bedtime) as needed for insomnia.  
15. Outpatient Lab Work
Please check a chem10 on ___ and fax to Dr. ___ 
___, as well as ___: 
___. 

16. Prevacid 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
17. Zofran 4 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for nausea.  
18. pregabalin 150 mg Capsule Sig: 600 in the AM, 450 in the ___ 
Capsules PO twice a day.  
19. Tylenol Extra Strength 500 mg Tablet Sig: Two (2) Tablet PO 
every eight (8) hours.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hypercalcemia
metastatic renal cell carcinoma

 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on ___ for workup of your altered 
mental status. You had several imaging studies as well as 
labwork completed during your stay.

An MRI of your spine showed extension of your soft tissue mass 
into your spinal canal which is likely contributing to your leg 
pain. It did not show any significant findings within your 
thoracic or cervical spine. An MRI of your head showed possible 
evidence of cancer spread. We checked your spinal fluid, which 
was inconclusive. We will check the cells in this fluid to look 
for cancer.

Your calcium level was elevated during your stay. You were given 
fluids and medication to bring down this level.  Labs were 
pending at the time of your discharge -PTHrP - results will be 
relayed to you when available.

Medications:  No new medications

You should followup with Dr. ___ in two weeks. Please call 
the number below to schedule an appointment. You should followup 
with your PCP ___ in one week.

Thank you for allowing us at ___ to participate in your care.
 
Followup Instructions:
___